US08193228B2
2-methyl-4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1-trityl-1H-imidazole
Hydrazine hydrate (30 mL) was added to a solution of (2-methyl-1-trityl-1H-imidazol-4-yl)[1-(trifluoromethyl)cyclopropyl]methanone (15.78 g, 34.2 mmol) and powdered potassium hydroxide (9.6 g, 171 mmol) in ethylene glycol (200 mL). After stirring at 120° C. for 20 min, the reaction mixture was heated at 180° C. for 2 h. After cooling to ambient temperature, water was added and the mixture was extracted twice with ethyl acetate. The combined organic extracts were washed with brine, dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-60% ethyl acetate/hexane afforded the title compound.

reactant | Hydrazine hydrate | 30 mL | O.NN
reactant | (2-methyl-1-trityl-1H-imidazol-4-yl)[1-(trifluoromethyl)cyclopropyl]methanone | 34.2 mmol, 15.78 g | CC=1N(C=C(N1)C(=O)C1(CC1)C(F)(F)F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H23F3N2O
reactant | potassium hydroxide | 171 mmol, 9.6 g | [OH-].[K+]
reactant | water | O | H2O
solvent | ethylene glycol | 200 mL | C(CO)O | C2H6O2
product | 2-methyl-4-{[1-(trifluoromethyl)cyclopropyl]methyl}-1-trityl-1H-imidazole | CC=1N(C=C(N1)CC1(CC1)C(F)(F)F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H25F3N2
